US06680313B2
a) 7-(2-Formylaminoethyl)thioimidazo[5,1-b]thiazole
7-(2-Azidoethyl)thioimidazo[5,1-b]thiazole (397 mg) was dissolved in a mixed solvent composed of 10 ml of THF and 10 ml of water. A 1 N aqueous hydrochloric acid solution (5.3 ml) and 200 mg of 10% Pd-C were added to the solution. The air in the reaction vessel was replaced by hydrogen, and the contents of the reaction vessel were stirred at room temperature for 6 hr. The catalyst was removed by filtration on Celite, and was then washed with water. The filtrate was concentrated under the reduced pressure until the volume was substantially halved. Dichloromethane (20 ml) was added, and the mixture was adjusted to pH 7.0 by the addition of an aqueous sodium hydrogencarbonate solution. Formic acid (0.90 ml) and 0.50 ml of acetic anhydride, which had been stirred at 50° C. for 5 min, were added thereto under ice cooling. The mixture was stirred at that temperature for 20 min while maintaining the pH value at about 7.0. The reaction solution was adjusted to pH 8.3 by the addition of an aqueous sodium hydrogencarbonate solution, and was then extracted with dichloromethane three times. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to prepare 250 mg of 7-(2-formylaminoethyl)thioimidazo[5,1-b]thiazole.

reactant | 7-(2-Azidoethyl)thioimidazo[5,1-b]thiazole | 397 mg | N(=[N+]=[N-])CCSC=1N=CN2C1SC=C2 | C7H7N5S2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1 N, 5.3 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 200 mg | [Pd] | Pd
solvent | water | 10 ml | O | H2O
product | 7-(2-Formylaminoethyl)thioimidazo[5,1-b]thiazole | C(=O)NCCSC=1N=CN2C1SC=C2 | C8H9N3OS2
